US09399637B2
Step 7) tert-butyl 8-(methylamino)-2-azaspiro[4.5]decane-2-carboxylate
To a solution of methylamine (33% [w/w] in EtOH, 7.42 g, 79.0 mmol) was added tert-butyl 8-oxo-2-azaspiro[4.5]decane-2-carboxylate (4 g, 15.80 mmol), the reaction mixture was stirred at rt overnight. To the mixture was added NaBH3CN (2.98 g, 47.4 mmol), and the reaction mixture was stirred at rt for another 2 h and concentrated in vacuo. The residue was diluted with H2O (50 mL) and the resulting mixture was extracted with DCM (80 mL×3). The combined organic phases were washed with brine (100 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=10/1) to give the product as yellow oil (3.2 g, 75.7%).

reactant | methylamine | 79.0 mmol, 7.42 g | CN | CH5N
reactant | tert-butyl 8-oxo-2-azaspiro[4.5]decane-2-carboxylate | 15.80 mmol, 4 g | O=C1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C14H23NO3
reactant | NaBH3CN | 47.4 mmol, 2.98 g | [BH3-]C#N.[Na+]
product | tert-butyl 8-(methylamino)-2-azaspiro[4.5]decane-2-carboxylate | 3.2 g, 75.7% | CNC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C15H28N2O2
